US09302991B2
<Step-1>: 2-amino-5-chloro-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide (single enantiomer)
The title compound is prepared in 39% yield (213 mg, a white solid) from (−)-1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride (379 mg, 1.48 mmol, Amine-1, single enantiomer) and 2-amino-5-chloroisonicotinic acid (280 mg, 1.62 mmol) by the similar manner in Step-1 of Example-8.

reactant | (−)-1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride | 1.48 mmol, 379 mg | Cl.FC(COC1=CC=C(C=N1)C(C)N)(F)F
reactant | 2-amino-5-chloroisonicotinic acid | 1.62 mmol, 280 mg | NC=1C=C(C(=O)O)C(=CN1)Cl | C6H5ClN2O2
product | 2-amino-5-chloro-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide | 39% yield | NC=1C=C(C(=O)NC(C)C=2C=NC(=CC2)OCC(F)(F)F)C(=CN1)Cl | C15H14ClF3N4O2
